US04727073
To a solution of 5-hydroxymethyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (0.3 g) in ethyl acetate (10 ml) was added activated manganese dioxide (2.4 g) and the mixture was refluxed for 2 hours under stirring vigorously. After allowing to stand to room temperature, manganese dioxide was filtered off. The filtrate was evaporated in vacuo, and the residual precipitate was recrystallized from diethyl ether to give 5-formyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine (0.15 g).

reactant | 5-hydroxymethyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 0.3 g | OCC=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H15N3O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 2.4 g | [O-2].[O-2].[Mn+4]
product | 5-formyl-6-methyl-4-(3-nitrophenyl)-2-phenylpyrimidine | 0.15 g | C(=O)C=1C(=NC(=NC1C)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C18H13N3O3
